US06824890B2
4-(4′-(3″, 5″-Di-tert-butylstyryl)styryl)stilbene (4R—2tBu).
A 50 mL round bottom flask was charged with a Teflon coated stir bar, 4-iodophenylmethane (408 mg, 2.0 mmol), 1-(3′5′-di-tert-butylstyryl)-4-(4′-vinylstyryl)benzene (0.84 g, 2.0 mmol), Pd(OAc)2 (22.45 mg, 0.1 mmol), K2CO3 (690 mg, 5.0 mmol), n-Bu4NBr (665 mg, 2.0 mmol) and DMF (16 mL). The mixture was degassed with 4 freeze-pump-thaw cycles and heated at 90° C. for 48 hours. The reaction was cooled to room temperature, diluted with CH2Cl2, washed with brine, dried over MgSO4 and the solvent was removed under reduced pressure. The crude product was purified on a silica gel column (20% CH2Cl2/hexanes) to give a yellow greasy solid which contains cis-trans isomers. The isomers were dissolved in 150 mL benzene and degassed with 4 freeze-pump-thaw cycles. The solution was irradiated with Blak-Ray long UV lamp for 60 minutes and the solvent was removed under reduced pressure. The isomerized product was repurified on a silica gel column (20% CH2Cl2/hexanes) to give a yellow solid (yield 71%). 1H NMR (CDCl3): δ 7.51-7.54 (overlapping signals, 9H), 7.35-7.39 (overlapping signals, 5H), 7.28 (t, J=7.50 Hz, 1H), 7.19 (d, J=16.3 Hz, 1H), 7.13 (complex, 4H), 7.10 (d, J=16.3 Hz, 1H), 1.37 (s, 18H). 13C NMR (CDCl3): δ 151.28, 137.54, 136.66, 129.96, 128.93, 128.78, 128.49, 128.20, 127.76, 127.09, 127.04, 127.01, 126.73, 121.09, 31.69. Exact Mass (FAB, NBA) for M+ (C38H40): calculated 496.3143; found 496.3189.

reactant | 4-iodophenylmethane | 2.0 mmol, 408 mg | IC1=CC=C(C=C1)C | C7H7I
reactant | 1-(3′5′-di-tert-butylstyryl)-4-(4′-vinylstyryl)benzene | 2.0 mmol, 0.84 g | C(C)(C)(C)C=1C=C(C=CC2=CC=C(C=C2)C=CC2=CC=C(C=C2)C=C)C=C(C1)C(C)(C)C | C32H36
reactant | K2CO3 | 5.0 mmol, 690 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 16 mL | CN(C)C=O | C3H7NO
catalyst | n-Bu4NBr | 2.0 mmol, 665 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
catalyst | Pd(OAc)2 | 0.1 mmol, 22.45 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(4′-(3″, 5″-Di-tert-butylstyryl)styryl)stilbene | yield 71% | C(C)(C)(C)C=1C=C(C=CC2=CC=C(C=CC3=CC=C(C=C3)C=CC3=CC=CC=C3)C=C2)C=C(C1)C(C)(C)C | C38H40
